US08202885B2
To a suspension of 1.9 g of phosphorous pentoxide in 50 mL DCManh. were added 4.5 mL of alpha tetralone followed by 9.9 mL of 2-cyclohexen-1-one at rt. The suspension was cooled to 0° C. with an ice bath before 9.0 mL of trifluoromethanesulfonic acid was carefully added. The reaction mixture was warmed to rt and then heated at 40° C. overnight. 18.5 mL of NEt3 were dropwise added at 0° C., the mixture was stirred at rt for 10 min and then evaporated to dryness. Purification by CC with EtOAc-Hept (2:8) yielded 3.9 g of rac-(1R*,4R*)-1,2,3,4,9,10-hexahydro-3-oxo-1,4-ethanophenanthrene as yellow oil.

reactant | phosphorous pentoxide | 1.9 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | alpha tetralone | 4.5 mL | C1CC2=CC=CC=C2C(=O)C1 | C10H10O
reactant | 2-cyclohexen-1-one | 9.9 mL | C1(C=CCCC1)=O | C6H8O
reactant | trifluoromethanesulfonic acid | 9.0 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | NEt3 | 18.5 mL | CCN(CC)CC | C6H15N
product | rac-(1R*,4R*)-1,2,3,4,9,10-hexahydro-3-oxo-1,4-ethanophenanthrene | 3.9 g | O=C1CC2C=3CCC4=CC=CC=C4C3C1CC2 | C16H16O
